US07642264B2
5-{5-[4-Difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-pyridin-2-ylamine
The title compound was prepared from 6-amino-N-hydroxy-nicotinamidine (example C.3) (0.15 g, 1.0 mmol) and 6-difluoromethyl-4-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxylic acid (example D.3) (0.16 g, 0.5 mmol) according to the general procedure V. Obtained as a light yellow solid (0.066 g, 30%). MS (ISP) 435.1 [(M+H)+]; mp 219° C.

reactant | 6-amino-N-hydroxy-nicotinamidine | 1.0 mmol, 0.15 g | NC1=NC=C(C(=N)NO)C=C1 | C6H8N4O
reactant | 6-difluoromethyl-4-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxylic acid | 0.5 mmol, 0.16 g | FC(C1=CC(=NC(=N1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F)F | C13H7F5N2O2
product | 5-{5-[4-Difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-pyridin-2-ylamine | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NC(=NO1)C=1C=CC(=NC1)N)F | C19H11F5N6O
